US09023847B2
68. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-benzyloxy-ethyl)-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide using 2-(benzyloxy)ethanamine instead of tert-butyl-2-amino ethyl carbamate. LCMS (ESI) 393 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.51 (1H, br. s.) 10.24 (1H, s) 8.15 (1H, s) 7.99 (1H, d, J=5.47 Hz) 7.76 (1H, d, J=5.27 Hz) 7.44 (1H, d, J=5.47 Hz) 7.16-7.32 (5H, m) 6.78 (1H, d, J=5.27 Hz) 6.41 (1H, d, J=3.32 Hz) 4.44 (2H, s) 3.48-3.56 (2H, m) 3.39-3.47 (2H, m)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C14H15N5OS
reactant | 2-(benzyloxy)ethanamine | C(C1=CC=CC=C1)OCCN | C9H13NO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-benzyloxy-ethyl)-amide | C(C1=CC=CC=C1)OCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H20N4O2S
